US09035063B2
A solution of 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-3-fluorophenyl)-N-(4-cyano-3-(trifluoromethyl)phenyl)acetamide (12 mg, 0.022 mmol) and Pd/C (2.324 mg, 0.022 mmol) in MeOH (10 mL) was stirred at 20° C. under a H2 atmosphere for 16 h. After LCMS analysis showed the starting material had disappeared, the mixture was filtered. The filtrate was concentrated to give the crude product, which was purified by preparative HPLC to yield a white solid of N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-3-fluorophenyl)acetamide (3.63 mg, 7.90 μmol, 36.2% yield): 1H NMR (400 MHz, CD3OD) δ 8.23 (s, 1H), 8.02-7.95 (m, 1H), 7.94-7.88 (m, 1H), 7.59 (s, 1H), 7.35-7.29 (m, 1H), 7.25-7.15 (m, 2H), 6.23 (s, 1H), 4.16 (m, 2H), 3.80 (s, 2H), 1.32 (t, J=7.0 Hz, 3H); ES-LCMS m/z 460.1 (M+H).

reactant | 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-3-fluorophenyl)-N-(4-cyano-3-(trifluoromethyl)phenyl)acetamide | 0.022 mmol, 12 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=N1)C1=C(C=C(C=C1)CC(=O)NC1=CC(=C(C=C1)C#N)C(F)(F)F)F)OCC | C30H23F4N3O3
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.022 mmol, 2.324 mg | [Pd] | Pd
product | N-(4-cyano-3-(trifluoromethyl)phenyl)-2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-3-fluorophenyl)acetamide | 7.90 μmol, 3.63 mg, 36.2% yield | C(#N)C1=C(C=C(C=C1)NC(CC1=CC(=C(C=C1)C1=CNC(C=C1OCC)=O)F)=O)C(F)(F)F | C23H17F4N3O3
